US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-IX, 30 mg, 0.070 mmol), 2-aminoethanol (6.37 mg, 0.104 mmol), HATU (34.4 mg, 0.090 mmol), and 4-methylmorpholine (28.1 mg, 0.278 mmol) were added to DMF (1 mL). It was stirred for 1 h and then was purified by prep HPLC (PHENOMENEX® Luna 5u 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 18 min, product retention=17.9 min (20 mL/min, 220 nM) to provide (R/S)-2-hydroxy-N-(2-hydroxyethyl)-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (25 mg, 0.047 mmol, 68.2% yield): LCMS=475.1 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.25 (1 H, t, J=5.94 Hz), 8.09-8.19 (2 H, m), 7.58-7.84 (7 H, m), 5.14 (1 H, s), 3.60-3.67 (2 H, m), 3.34-3.44 (2 H, m); HPLC peak RT=8.2 min (Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=NOC(=C1C(F)(F)F)C1=CC=CC=C1 | C20H12F3N3O5
reactant | 2-aminoethanol | 0.104 mmol, 6.37 mg | NCCO | C2H7NO
reactant | HATU | 0.090 mmol, 34.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.278 mmol, 28.1 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-N-(2-hydroxyethyl)-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.047 mmol, 25 mg, 68.2% yield | OC(C(=O)NCCO)C1=CC=C(C=C1)C1=NOC(=N1)C1=NOC(=C1C(F)(F)F)C1=CC=CC=C1 | C22H17F3N4O5
